US05677326
Ninety grams of m-anisaldehyde, 250 g of (methoxymethyl)triphenylphosphonium chloride and 800 ml of tetrahydrofuran were mixed, and then 82.5 g of potassium tert-butoxide was added to this mixed suspension under ice-cooling, and the solution was stirred for 2 hours at room temperature. The reaction solution was poured in ice water, and after distilling out the THF, the mixture was extracted with ethyl acetate. The extract solution was washed with sodium bicarbonate aqueous solution and dried. The extract solution was concentrated to obtain a residue to which hexane was then added, and the resulting precipitate was filtered out. The filtrate was then concentrated, and the residue was subjected to silica gel column chromatography. Elution was then performed with a mixed solvent of hexane:ethyl acetate=20:1, to obtain 90 g of methyl (3-methoxystyryl) ether.

reactant | m-anisaldehyde | Ninety grams | C(C1=CC(=CC=C1)OC)=O | C8H8O2
reactant | (methoxymethyl)triphenylphosphonium chloride | 250 g | [Cl-].COC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 82.5 g | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 800 ml | O1CCCC1 | C4H8O
product | methyl (3-methoxystyryl) ether | 90 g | COC=1C=C(C=COC)C=CC1 | C10H12O2
